### PR TITLE
intro4

### PR DESCRIPTION
**Pull request by mgsium**

### CODE REVIEW

File: intro4.lean [hunk 1]
```diff
@@ -0,0 +1,119 @@
...
+    = card (s ∪ t) + card (s ∩ t ∩ r) - card (t ∩ r) - card (s ∩ r):= by
+  rw [← card_union_diff s t r]; simp
+
+-- nat subtraction version card of union
+theorem card_union_add_card_inter' (s t : Finset ℕ)
+  : card (s ∪ t) = card s + card t - card (s ∩ t) :=
+    eq_tsub_of_add_eq (card_union_add_card_inter s t)
+
+-- number of multiples of 3 and 4
+lemma int_3_4 : card (mult 3 ∩ mult 4) = 167 := by rw [mult_mul (by simp)]; rfl
```
Comment (dodoturkoz) [inline intro4.lean:87]: It we replace "simp" with "simp(config := {decide := false})" this line fails, which might cause an issue in newer versions. It might be safer to use rfl instead.

File: intro4.lean [hunk 2]
```diff
@@ -0,0 +1,119 @@
...
+-- number of multiples of 4 and 5
+lemma int_4_5 : card (mult 4 ∩ mult 5) = 101 := by rw [mult_mul (by simp)]; rfl
+
+-- number of multiples of 3 and 4 and 5
+lemma int_3_4_5 : card (mult 3 ∩ mult 4 ∩ mult 5) = 34 := by
+  rw [inter_assoc, mult_mul (by simp), mult_mul (by simp)]; rfl
+
+-- number of multiples of 3 or 4
+lemma uni_3_4 : card (mult 3 ∪ mult 4) = 1002 := by
+  rw [card_union_add_card_inter', int_3_4]; rfl
```
Comment (dodoturkoz) [inline intro4.lean:101]: I think the final rfl's are using decide to do the counting. We instead want to use num_div?
```suggestion
macro "count" : tactic => `(tactic|(
  rw [mult_mul (by rfl), num_div (by linarith)] ; norm_num))

-- number of multiples of 3 and 4
lemma int_3_4 : card (mult 3 ∩ mult 4) = 167 := by count

-- number of multiples of 3 and 5
lemma int_3_5 : card (mult 3 ∩ mult 5) = 134 := by count

-- number of multiples of 4 and 5
lemma int_4_5 : card (mult 4 ∩ mult 5) = 101 := by count

-- number of multiples of 3 and 4 and 5
lemma int_3_4_5 : card (mult 3 ∩ mult 4 ∩ mult 5) = 34 := by
  rw [inter_assoc, mult_mul (by rfl)] ; count

-- number of multiples of 3 or 4
lemma uni_3_4 : card (mult 3 ∪ mult 4) = 1002 := by
  rw [card_union_add_card_inter', int_3_4]
  rw [num_div (by linarith), num_div (by linarith)]
  norm_num
```

File: intro4.lean [hunk 3]
```diff
@@ -0,0 +1,124 @@
...
+  simp only [mem_inter, mem_mult_iff]
+  rw [← @mul_dvd_iff _ _ _ h]; tauto
+
+-- this exists in mathlib in a newer version
+lemma card_sdiff_add_card_inter (s t : Finset ℕ) :
+    (s \ t).card + (s ∩ t).card = s.card := by
+  rw [← card_disjoint_union (disjoint_sdiff_inter _ _), sdiff_union_inter]
+
+-- apply inclusion-exclusion twice for a set theoretical identity needed for counting
+-- this proof should really be written using calc
```
Comment (dodoturkoz) [inline intro4.lean:67]:
```suggestion
```

**Review by dodoturkoz — APPROVED** [review]

**Review by DesyncTheThird — APPROVED** [review]
